US07982055B2
To a pressure vessel purged with N2 was added 3,4-dibromo-selenophene (3.69 g, 12.77 mmol), DMF (10.0 mL), triphenylphosphine (0.669 g, 2.55 mmol), copper(I) iodide (0.161 g, 0.843 mmol), diethylamine (dried over KOH, 20.0 mL, 191.55 mmol), (trimethylsilyl)acetylene (0.910 mL, 6.39 mmol), and palladium dichloride-bis-triphenylphosphine (0.592 g, 0.843 mmol). The reaction vessel was sealed and the mixture heated to 90° C. for 1 h. Upon cooling to room temperature, the reaction mixture was diluted with MTBE (100.0 mL) and was washed with 0.1 M HCl (3×50.0 mL). The combined aqueous layers were extracted with MTBE (50.0 mL). The combined MTBE extracts were quenched with saturated sodium bicarbonate (50.0 mL), dried over magnesium sulfate, and concentrated to an oil. The crude oil was purified by column chromatography (silica gel, cyclohexane) to provide (4-Bromo-selenophen-3-ylethynyl)-trimethyl-silane (1.55 g, 5.08 mmol, 79.5 mol %): 500 MHz 1H NMR (CDCl3) δ 8.15 (d, J=2.9 Hz, 1H), 7.58 (d, J=2.9 Hz, 1H), 0.26 (S, 9h); 125 MHz 13C NMR (CDCl3) δ 135.4, 127.0, 126.4, 114.1, 99.8, 96.8, 0.2.

reactant | 3,4-dibromo-selenophene | 12.77 mmol, 3.69 g | BrC1=C[Se]C=C1Br | C4H2Br2Se
reactant | triphenylphosphine | 2.55 mmol, 0.669 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylamine | 191.55 mmol, 20.0 mL | C(C)NCC | C4H11N
reactant | (trimethylsilyl)acetylene | 6.39 mmol, 0.910 mL | C[Si](C)(C)C#C | C5H10Si
solvent | MTBE | 100.0 mL | CC(C)(C)OC | C5H12O
catalyst | copper(I) iodide | 0.843 mmol, 0.161 g | [Cu]I
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | (4-Bromo-selenophen-3-ylethynyl)-trimethyl-silane | 5.08 mmol, 1.55 g | BrC=1C(=C[Se]C1)C#C[Si](C)(C)C | C9H11BrSeSi
